US08877754B2
1-(4-Iodo-phenyl)-2-(4-methyl-imidazol-1-yl)-ethanone
To 2.50 g (7.69 mmol) 2-bromo-1-(4-iodo-phenyl)-ethanone in 30 mL ACN are added 1.90 g (23.1 mmol) 4-methylimidazole and the mixture is stirred at rt for 48 h. After that time, the solvent is evaporated and the residue is taken up in EtOAc. The mixture is washed with water and brine (2×) and the organic layer is dried over magnesium sulphate. The solvent is evaporated and the residue is recrystallized from diethyl ether to yield the desired product.

reactant | 2-bromo-1-(4-iodo-phenyl)-ethanone | 7.69 mmol, 2.50 g | BrCC(=O)C1=CC=C(C=C1)I | C8H6BrIO
reactant | 4-methylimidazole | 23.1 mmol, 1.90 g | CC=1N=CNC1 | C4H6N2
solvent | ACN | 30 mL | C(C)#N | C2H3N
product | 1-(4-Iodo-phenyl)-2-(4-methyl-imidazol-1-yl)-ethanone | IC1=CC=C(C=C1)C(CN1C=NC(=C1)C)=O | C12H11IN2O
